Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
ACE Inhibitors / codeine / lithium / olanzapine / Sulfa 
(Sulfonamide Antibiotics) / tetracycline
 
Attending: ___.
 
Chief Complaint:
intracranial hemorrhage 
 
Major Surgical or Invasive Procedure:
n/a 

 
History of Present Illness:
___ year old female transferred from ___ yesterday 
for
neurosurgical evaluation of right frontal SDH. Per OSH records,
patient was found down today by her roommate, unknown length of
down time. Patient is unable to recall specifics, although today 
she reports that she was walking with a walker and fell over 
onto her walker. She denies LOC, jerking motions. She is unable 
to recall how long she was down for. Patient denies headache, 
weakness,
numbness, tingling, vision changes, chest pain, or respiratory
difficulty, as well as urinary sx, diarrhea/constipation, N/V, 
fever. 

At ___ (presented around 3 ___ ___: 
Trop <0.02 
Lactate 0.9 
EKG appears normal sinus rhythm with QTc 339 
Head CT showed right temporal soft tissue swelling, small right 
frontal subdural vs epidural hematoma with mild local mass 
effect. No shift of mildline or herniation with preservation of 
gray-white matter differentiation. 

In the ED patient reported sore throat. She denied HA, visual 
changes, weakness, numbness, vomiting, abdominal pain or any 
other complaints. She was AAOx3, LUE ataxia with intention 
tremor, no weakness or numbness. Labs significant for WBC 7.3, 
Hgb 11.9, Plts 214, Na 136, K 3.9, Cr 0.9, INR 1. Found to have 
a small R frontal extra-axial hematoma, No midline shift. She 
was given 1 G CTX for presumed UTI. 

While on neurosurgery service, pt was noted to have R nasolabial 
flattening, hypophonia, and dysarthria. Her home ASA was held. 
Repeat CT scan showed an increase to 11 mm and question of 
subdural vs epidural hematoma. 

When admitted to the medicine service, the pt was pleasant, 
although oriented only to self. She denied headache, changes in 
vision or eye pain, lightheadedness, nausea. She was noted to 
have slight right facial droop and reduced ability to shrug her 
shoulders. She had negative pronator drift, but did have tremors 
of UE b/l L>R. 

 
Past Medical History:
HLD 
dementia, likely microvascular 
DM2 
bipolar d/o 
 
Social History:
___
Family History:
unable to obtain 
 
Physical Exam:
ON ADMISSION: 
================
VS: 98.6, BP 110-130s/50-60, HR ___, RR 18, 98% RA  
Gen: alert, oriented to self, not place or time, unable to say 
days of week backwards 
HEENT:   intact, hypophonic speech, R surgical pupil, L pupil 2 
sluggish, L>R tremors, right nasolabial flattening. Purulent 
drainage from eyes b/l. 
CV: RRR no murmurs appreciated 
Pulm: rhoncorous diffusely 
Abd:  +BS, soft, NT ND 
GU: n/a 
Ext:  warm, well perfused 
Skin: ecchymoses over R frontal and temporal region of skull 
Neuro: intact sensation, no weakness in distal limbs, moving all 
limbs spontaneously. Post-surgical R pupil and L pupil approx. 2 
mm, reactive to light, EOMI. Mild facial droop and slightly 
decreased shoulder shrug on the right. Able to turn face against 
resistance equally on both sides. 

ON DISCHARGE: 
==============
VS: 98.0 F, BP 100-120/40-50, HR 80-90, RR 16, 92-96% RA 
ORTHOSTATICS: lying down: BP 136/71, HR 87, standing: BP 140/72, 
HR 107, asymptomatic 
Gen: alert, unable to assess orientation
HEENT: soft speech, not following commands for eye exam, L>R 
tremors. Scant drainage from eyes, sclera clear. 
CV: RRR no murmurs appreciated 
Pulm: clear to auscultation b/l 
Abd:  +BS, soft, NT ND 
GU: n/a 
Ext:  warm, well perfused 
Skin: healing ecchymoses over R frontal and temporal region of 
skull 
Neuro: 
Cranial nerves: 
Olfactory nerve not assessed 
Right pupil is post-surgical but reactive to light, left pupil 
approx. 2 mm and reactive to light. EOMI appear intact. 
Mild right-sided facial droop as previously noted. 
Shoulder shrug intact. Able to turn face against resistance. 
Able to stick out tongue and move from side to side although has 
poor effort. 
Sensation intact 
Peripheral: 
Handgrip intact, no pronator drift although tremors are noted in 
b/l UE L > R. Toes downgoing b/l. 
Moving all limbs spontaneously, no gross impairment in sensation 
  

 
Pertinent Results:
ON ADMISSION: 
==============
___ 05:15PM BLOOD WBC-9.1 RBC-3.60* Hgb-11.8 Hct-35.5 
MCV-99* MCH-32.8* MCHC-33.2 RDW-13.2 RDWSD-47.3* Plt ___
___ 05:15PM BLOOD Neuts-72.3* Lymphs-11.9* Monos-13.9* 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-6.56* AbsLymp-1.08* 
AbsMono-1.26* AbsEos-0.08 AbsBaso-0.04
___ 05:15PM BLOOD ___ PTT-26.9 ___
___ 05:15PM BLOOD Plt ___
___ 04:35AM BLOOD Glucose-68* UreaN-17 Creat-0.9 Na-133 
K-3.9 Cl-96 HCO3-26 AnGap-15
___ 04:35AM BLOOD Calcium-9.3 Phos-3.6 Mg-1.4*
___ 04:35AM BLOOD CK(CPK)-103

IMAGING: 
==========

SPINE CT WO CONTRAST ___
There is no evidence of cervical spine fracture.  There is no 
prevertebral 
soft tissue swelling.  Incidental note is made of non fusion of 
the posterior arch of C1.  Bones are demineralized.  There are 
mild multilevel degenerative changes.  There is straightening of 
the normal cervical lordosis. There is mild apical scarring.  
The thyroid is unremarkable.  There is no suspicious cervical 
adenopathy. 
  
IMPRESSION:    
No acute cervical spine fracture. 

HEAD CT WO CONTRAST ___
1. Right frontal extra-axial hematoma has increased in size 
compared to 
outside hospital CT measuring 11 mm (previously 7 mm), in part 
representing 
acute subdural hematoma, an epidural component is also of 
concern given 
lentiform appearance inferiorly.  No associated calvarial 
fracture. 
2. Foci of subarachnoid hemorrhage and small amount of 
intraventricular 
hemorrhage is unchanged. 

HEAD CT WO CONTRAST ___
1. No significant change to the right frontal extra-axial 
hematoma measuring 11 mm in greatest diameter from the inner 
table. Although no underlying calvarial fracture is seen, the 
lentiform shape of the hematoma remain concerning for epidural 
bleed.   
2. Unchanged foci of subarachnoid and intraventricular 
hemorrhage. 
3. Paranasal sinus disease as described above. 

CXR ___: 
Bilateral left greater than right interstitial abnormality, most 
likely 
chronic. 

TTE ___:
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. There is mild mitral regurgitation. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: poor image quality. No structural cause of syncope 
identified. Left ventricular function is probably normal, a 
focal wall motion abnormality cannot be fully excluded. The 
right ventricle is not well seen. No pathologic valvular 
abnormality seen. Pulmonary artery systolic pressure could not 
be determined.  

MICRO: 
========

   URINE CULTURE (Preliminary): 
      ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML.. 
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ C diff negative 

ON DISCHARGE: 
==============
___ 04:55AM BLOOD WBC-5.3 RBC-3.11* Hgb-10.3* Hct-30.5* 
MCV-98 MCH-33.1* MCHC-33.8 RDW-13.4 RDWSD-48.1* Plt ___
___ 04:55AM BLOOD Plt ___
___ 04:55AM BLOOD Glucose-81 UreaN-19 Creat-0.9 Na-133 
K-4.3 Cl-99 HCO3-26 AnGap-12
___ 04:55AM BLOOD Calcium-8.6 Phos-3.6 Mg-2.___ yo female with h/o dementia p/w intracranial hemorrhage in 
setting of unwitnessed syncope/fall. 

ACTIVE ISSUES: 
==========================
#  Fall: pt reported falling over her walker, although her 
caregiver at home reported she may have lost consciousness for a 
few seconds. Her EKG at OSH was normal sinus rhythm, and she was 
monitored on telemetry with no noted events. She was evaluated 
by ___ who recommended rehab with delirium precautions. Fall 
may have been in the setting of UTI found on routine culture 
data. TTE unrevealing with no structural cause of syncope but 
with findings of mild pulmonary hypertension and mild LVH. 
 
#  Subdural hematoma: found to have small R SDH without midline 
shift, no focal neurological deficits, initially admitted to 
neurosurgical service. Repeat scan showed increase from 7 mm to 
11 mm, and a mild mass effect with concern for element of 
epidural bleed appearance. She was found to have chronic 
right-sided facial droop, as well as ?dysarthria although this 
was described as hypophonia by neurosurgery; her daughter while 
visiting the hospital later confirmed that her mother was at her 
baseline and did not have any speech abnormalities. Her SBP was 
maintained <140 with valsartan. Her home ASA was held. She will 
need to f/u in 1 week with neurosurgery and get a repeat head CT 
at that time. Of note, per neurosurgery recommendations, no 
indication for keppra as she is on depakote. 

# Urinary tract infection: pt found to have E. coli in her 
urinary culture. She was started on IV CTX on ___ and 
transitioned to PO cefpodoxime for the outpatient setting to 
complete 7 day course (last dose ___. 

# Presumed bacterial conjunctivitis: pt has purulent drainage 
from eyes, reports it is "sometimes like this at home." She was 
given Bacitracin/polymyxin B ointment 5 days starting ___ 
with improvement in symptoms. 

# Hypoxia: on first night of transfer to medicine, pt found to 
desat overnight to the mid 80'___, required 2 L NC and improved 
with 10 mg IV Lasix. Did not require O2 afterwards. TTE 
unrevealing with no structural cause of syncope but with 
findings of mild pulmonary hypertension and mild LVH. 

CHRONIC ISSUES: 
==========================
# CAD: currently holding ASA 81 mg per NSG recommendations. 
Continued 20 mg simvastatin daily. 

# Bipolar d/o: continued wellbutrin 100 mg daily, risperadone 2 
mg daily, depakote 250 mg qAM and 500 qPM, 15 mg mirtazapine 
daily
 
# Dementia: Continue home wellbutrin and mirtazapine.

***Transitional issues***: 
- f/u CT scan in 1 week with appointment with Dr. ___ 
- home ASA 81 mg d/c'ed, can discuss whether to restart it at 
appointment with Dr. ___ 
- UTI: started on ceftriaxone ___, will send out with 7-day 
course of cefpodoxime to be completed ___
- bacterial conjunctivitis: started on bacitracin/polymyxin 
___ (end date ___ 
- etiology for one time episode of mild hypoxia unclear though 
TTE with mild pulmonary artery systolic hypertension, consider 
further w/u if ongoing issues with hypoxia
- caregiver is ___ ___

FULL CODE 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. RISperidone 2 mg PO QHS 
2. Simvastatin 20 mg PO QPM 
3. Mirtazapine 15 mg PO QHS 
4. BuPROPion 100 mg PO QAM 
5. Aspirin 81 mg PO DAILY 
6. Divalproex (EXTended Release) 500 mg PO QPM 
7. Divalproex (EXTended Release) 250 mg PO QAM 

 
Discharge Medications:
1. BuPROPion 100 mg PO QAM 
2. Divalproex (EXTended Release) 500 mg PO QPM 
3. Divalproex (EXTended Release) 250 mg PO QAM 
4. Mirtazapine 15 mg PO QHS 
5. RISperidone 2 mg PO QHS 
6. Simvastatin 20 mg PO QPM 
7. Bacitracin/Polymyxin B Sulfate Opht. Oint 1 Appl BOTH EYES 
Q6H Duration: 5 Days 
end date ___. Cefpodoxime Proxetil 200 mg PO Q12H Duration: 5 Days 
Last dose ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: 
Syncope  
Intracranial hemorrhage 
Urinary tract infection 

Secondary diagnoses: 
DM2
bipolar d/o 
dementia 
chronic interstitial lung disease 
h/o breast cancer with XRT 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 

___ were admitted to the hospital because ___ fell at home and 
had a head bleed. We kept ___ to monitor ___ for this small, 
stable bleed. ___ were initially on the neurosurgery service and 
then transferred to general medicine for further workup of why 
___ may have fallen--likely ___ will need to improve your 
strength in rehab. ___ were also found to have a urinary tract 
infection for which ___ are to complete a 7 day course of 
antibiotics (last dose cefpodoxime: ___ .

It was a pleasure taking care of ___ and we wish ___ the best! 

Sincerely,
Your ___ team 
 
Followup Instructions:
___